US08357694B2
tert-butyl 4-(4-(6-(2-(trifluoromethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl)piperazine-1-carboxylate
This was synthesized by using 4-(6-(2-(trifluoromethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, N-boc-piperazine and triethylamine as described in general procedure 2 to afford the desired product. M.p.=234-235° C. 1H NMR 400 MHz (DMSO-d6) δ 8.44 (d, J=7.6 Hz, 1 H), 8.18 (s, 1 H), 7.72 (d, J=7.6 Hz, 1 H), 7.66 (d, J=8.0 Hz, 1 H), 7.46-7.34 (m, 3 H), 7.27-7.21 (m, 3 H), 7.15-7.13 (m, 2 H), 6.90 (d, J=7.6 Hz, 1 H), 4.81 (t, J=7.2 Hz, 1 H), 3.49-3.47 (m, 4 H), 3.23-3.18 (m, 1 H), 3.07-3.01 (m, 1 H), 2.83-2.79 (m, 2 H), 2.65-2.61 (m, 2 H), 1.48 (s, 9 H). LCMS 630 (M+H).

reactant | 4-(6-(2-(trifluoromethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=CC=C1)C(F)(F)F)C=CC=C3 | C28H24F3N3O3S
reactant | N-boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | tert-butyl 4-(4-(6-(2-(trifluoromethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl)piperazine-1-carboxylate | FC(C1=C(C=CC=C1)C1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(CCN1CCN(CC1)C(=O)OC(C)(C)C)C=C2)(F)F | C36H38F3N5O2
